US05326497
14 g of 2-[4-(3-acetoxy-1-butenyl)phenyl]-5-trimethylsilyloxy-pyridine, 2 g of palladium on active charcaol (10 wt. %) and 200 ml of tetrahydrofuran are hydrogenated in an analogous manner to Example 1(a) to give 12 g of 2-[4-(3-acetoxy-1-butyl)phenyl]-5-trimethylsilyloxy-pyridine.

reactant | 2-[4-(3-acetoxy-1-butenyl)phenyl]-5-trimethylsilyloxy-pyridine | 14 g | C(C)(=O)OC(C=CC1=CC=C(C=C1)C1=NC=C(C=C1)O[Si](C)(C)C)C | C20H25NO3Si
catalyst | palladium | 2 g | [Pd] | Pd
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-[4-(3-acetoxy-1-butyl)phenyl]-5-trimethylsilyloxy-pyridine | 12 g | C(C)(=O)OC(CCC1=CC=C(C=C1)C1=NC=C(C=C1)O[Si](C)(C)C)C | C20H27NO3Si
